Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Bactrim / Cephalexin / Nitrofurantoin / Dilantin 
Kapseal / Tegretol / Iodine-Iodine Containing / Phenobarbital / 
furosemide / Lyrica / ranitidine / gabapentin
 
Attending: ___.
 
Chief Complaint:
Dark urine
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 ___ year old woman with a complex
medical history including HTN, CAD, HLD, paroxysmal AF,
hemorrhagic stroke, and cadaveric renal transplant ___ who
presents from SNF with dark urine and R flank tenderness for 3
days. 

Pt developed acute onset R flank tenderness over the past 3D,
which she associates with prior urinary tract infections. She 
did
not take any medications to help with the pain, the pain 
radiated
to her groin, not to her back. Day PTA she noted dark urine,
normally her urine is yellow. 

The patient endorses decreased PO intake over the past 4 days
because she dislikes the food at her nursing facility. She tries
to supplement her diet with fresh fruit, cereal, hummus, and
vitamins, which she considers healthier than the offerings at 
her
nursing home. She denies dysuria or polyuria. She denies pain
over her abdomen. She denies fevers, chill, or rigors. She 
denies
nausea, vomiting, or diarrhea. 

She was most recently admitted to the ___ on ___ for
abdominal pain and was found to have a UTI (E. coli and
Klebsiella) sensitive to PO ciprofloxacin. 

In the ED, initial vital signs were: 98.1 70 127/79 16 97%RA 

Exam notable for: tenderness over R flank 

Labs were notable for: Cr 2.0 (elevated from baseline of 1.3),
BUN 44, HCO3 20. UA showed 2 epithelial cells, 14 WBCs, 30
proteins, negative nitrites, negative blood, negative glucose,
and negative ketones. 

Studies performed include: renal ultrasound showing no interval
changes from ___

Patient was given: 1L NS

Consults: Renal transplant, recommended admission to Medicine,
urine protein/Cr ratio, and urine BK virus PCR.   

Vitals on transfer:  98 81 131/88 18 100%RA

Upon arrival to the floor, the patient was hemodynamically 
stable
and denied fever, or dysuria. She endorsed band-like pain around
her lower ribs, which was improved since her prior admission for
costochondritis, as well as chronic pain at her coccyx, spine,
and soles of her feet, which was at her baseline. 

She endorses a desire to transition herself to hospice care due
to her dissatisfaction with her living situation and struggles
with chronic pain; she has discussed this with multiple
psychiatrists as well as with her kidney transplant doctor, who
are among her closest relationships. She feels that she does not
have anyone who she can talk to at her nursing home, as many of
them have advanced dementia or are much older. 
 
Review of Systems:  
(+) per HPI.  endorses frequent migraine headaches, at her
baseline. 
(-) fever, chills, night sweats, headache, vision changes,
rhinorrhea, congestion, sore throat, cough, shortness of breath,
chest pain, abdominal pain, nausea, vomiting, diarrhea,
constipation, BRBPR, melena, hematochezia, dysuria, hematuria. 
 
Past Medical History:
-s/p cadaveric renal transplant: ___, 
-ESRD ___ chronic reflux nephropathy, on prednisone and
tacrolimus; baseline Cr 1.3  
-acute interstitial nephritis ___ presumably from ranitidine
-polyneuropathy in renal disease  
-anemia of chronic disease  
-CAD: NSTEMI ___, s/p cardiac cath without intervention  
-paroxysmal atrial fibrillation  
-hypertension  
-hyperlipidemia  
-diastolic dysfunction
-h/o DVT  
-hypothyroidism
-osteopenia ___ chronic steroid use  
-s/p craniotomy for intracranial hemorrhage 
-GERD  
-osteonecrosis of bilateral feet c/b osteomyelitis  
-osteonecrosis of L hip requiring surgical intervention and
girdlestone procedure  
-s/p cholecystecomy, s/p appendectomy  
-small intestinal adenoma with endoscopic resection c/b bowel
perforation requiring ex-lap in ___  
-cataract surgery  
-MRSA osteomyelitis ___  
-h/o C.diff  
-recurrent urinary tract infection 
-panic disorder associated with sexual trauma at age ___
-hearing loss of both ears  
-h/o depression 
-h/o duodenal polyps
-chronic pain (polyosteoarthritis, osteonecrosis of L hip,
osteoarthritis of R hip, spinal stenosis, low back pain with
sciatica) 
-h/o herpes zoster

 
Social History:
___
Family History:
Father died of CAD at age ___. Mother died young of unknown 
causes.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
========================
Vitals - 98 81 131/88 18 100%RA 
General: AOx3. Pleasant, no apparent distress.
HEENT: Head atraumatic, normocephalic. Sclerae non-icteric.
Mucous membranes moist. Extraocular movements intact. Pupils
equal and reactive to light. No palpable lymphadenopathy in
occipital, cervical, or supraclavicular regions. 
Cardiovascular: Rate and rhythm regular. No murmurs, rubs, or
gallops.
Pulmonary: Clear to auscultation bilaterally. No crackles or
wheezes.
Abdominal: Soft, non-tender, non-distended. No rebound or
guarding. No costovertebral angle tenderness. 
MSK/Extremities: Warm, well-perfused. 1+ pitting edema and
tenderness up to knees bilaterally. Clean skin folds around 
chin,
abdomen, arms, and thighs. No sacral decubitus ulcers noted.
Tenderness to palpation over spine and coccyx. 
Psych: No SI or HI. Current mood is "good." Affect appropriate;
occasionally tearful when describing feelings of loneliness. 
Neuro: CN II-XII grossly intact. Moving all 4 limbs
spontaneously. Sensation to light touch equal bilaterally over
face, upper extremities, and lower extremities. 

DISCHARGE PHYSICAL EXAM
=======================
VITALS: 98.1PO 117 / 78 72 18 97 Ra 
GENERAL: NAD, lying comfortably
EYES: anicteric sclera
ENT: oropharynx clear
CV: RRR, I/VI SEM at apex
RESP: CTAB
GI: Soft, mild TTP in RLQ, nondistended
MSK: no pitting edema
SKIN: chronic venous stasis changes to ___
NEURO: deferred
 
Pertinent Results:
ADMISSION LABS
===============

___ 03:27PM BLOOD WBC-7.2 RBC-4.86 Hgb-14.2 Hct-46.9* 
MCV-97 MCH-29.2 MCHC-30.3* RDW-15.8* RDWSD-55.8* Plt ___
___ 03:27PM BLOOD Neuts-72.1* ___ Monos-4.2* 
Eos-0.6* Baso-0.6 Im ___ AbsNeut-5.16 AbsLymp-1.51 
AbsMono-0.30 AbsEos-0.04 AbsBaso-0.04
___ 03:27PM BLOOD Glucose-113* UreaN-44* Creat-2.0* Na-137 
K-4.7 Cl-96 HCO3-20* AnGap-21*
___ 09:31AM BLOOD Calcium-9.2 Phos-4.4 Mg-1.8
___ 03:03PM URINE Color-Yellow Appear-Clear Sp ___
___ 03:03PM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-MOD*
___ 03:03PM URINE RBC-2 WBC-14* Bacteri-NONE Yeast-NONE 
Epi-2
___ 05:05AM URINE Hours-RANDOM Creat-67 TotProt-20 
Prot/Cr-0.3*

IMAGING
=======
RENAL ULTRASOUND (___)
Unremarkable renal transplant ultrasound, with unchanged upper 
pole simple 
cyst.  No evidence of hydronephrosis. 

MICROBIOLOGY
============
___ 11:41 am URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

DISCHARGE/INTERVAL LABS
========================
___ 06:25AM BLOOD WBC-5.3 RBC-4.11 Hgb-12.3 Hct-41.5 
MCV-101* MCH-29.9 MCHC-29.6* RDW-16.1* RDWSD-60.1* Plt ___
___ 06:25AM BLOOD Glucose-84 UreaN-28* Creat-1.2* Na-147 
K-4.1 Cl-109* HCO3-25 AnGap-13
___ 06:25AM BLOOD Calcium-9.6 Phos-4.2 Mg-1.7
___ 10:00AM BLOOD tacroFK-4.6*
 
Brief Hospital Course:
Ms. ___ is a ___ with a PMHx of CAD, HTN, HLD, diastolic 
heart failure, ESRD s/p DDRT in ___ (baseline Cr 1.3), chronic 
pain, recurrent UTIs, and depression presents with 3 days of 
flank tenderness in the setting of poor PO intake found to have 
___ on CKD (Cr 2.0 from baseline 1.3). Creatinine improved with 
fluids and no organisms grew on urine culture.

ACUTE/ACTIVE PROBLEMS:
======================
# ___ on CKD: Cr 2.0 up from baseline of 1.3 in setting of poor 
PO intake likely pre-renal ___ secondary to hypovolemia. Renal 
ultrasound was negative for hydronephrosis. Cr improved with 
fluids. BK virus PCR < 500 on discharge, and urine culture was 
without any dominant organisms. 

# Flank tenderness: 
# Groin Pain. Patient has history of flank tenderness associated 
with recurrent UTIs. Location of renal transplant not consistent 
with location of pain. Unclear etiology at this time, although 
pain may be consistent with hip osteoarthritis as pain is in 
lower R side of back with radiation to R groin. Urine culture 
was negative, and transplant ultrasound without any evidence of 
renal fat stranding. 
 Pain chronic in nature. If pain persists or worsens, may 
benefit from hip XR as outpatient.

# H/o depression: Patient reported that mood has improved since 
last year and that she no longer requires an anti-depressant. 
Has discussed option for hospice care with multiple providers, 
and feels comforted by the availability of this option, but 
would still like to talk with son ___ and ___. No 
active SI, HI, or paranoia. Patient will follow up with 
palliative care as outpatient for symptomatic management and 
further discussions on this subject.

# Chronic pain: 
Due to persistently uncontrolled musculoskeletal pain as a 
driver for her desire to enter hospice care even though she is 
not actively dying, her fentanyl patch was uptitrated from 75 
mcg q72h to 100 mcg q72h, as she was tolerating the former dose 
without any evidence of sedation and with inadequate symptom 
control.

CHRONIC/STABLE PROBLEMS:
========================
# Hypothyroidism:
Continued home levothyroxine 88 mcg QD

# Renal Transplant:
Continued home tacrolimus 0.5/0.5, prednisone 10 mg QD, 
calcitriol 0.25 mcg BID. 

# Paroxysmal atrial fibrillation: Not on home anti-coagulation
Continued home metoprolol succinate 25 mg PO QD 

# CAD/HLD:
Continued home ASA 81 QD, rosuvastatin 40mg QD 

# H/o duodenal polyps: Last seen by ___ in ___. Declining 
repeat EGD or other procedures. 
Continued home omeprazole 40mg BID, dicyclomine 10mg PO TID 

# H/o panic attacks:
Continued home clonazepam 0.5 mg PO BID 

# H/o herpes zoster:
Continued home acyclovir 200 mg PO QD 

# Nutrition
Continued home vitamins 

Transitional Issues:
=======================
___
#Renal Transplant
[ ] f/u with renal transplant after discharge
[ ] tacro level 4.6 at time of discharge, dose can be adjusted 
as needed by Dr. ___

#Flank Pain
#Groin Pain
[ ] f/u with palliative care for further symptom management
[ ] if pain worsens or persists, can consider hip XR in future

# CODE: DNR/DNI (confirmed) 
# CONTACT: ___ (friend, lives in ___) ___

___ is clinically stable for discharge.  On the day of 
discharge, greater than 30 minutes was spent on care 
coordination, communication, and planning.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Rosuvastatin Calcium 40 mg PO QD 
3. Levothyroxine Sodium 125 mcg PO DAILY 
4. PredniSONE 5 mg PO DAILY 
5. Omeprazole 40 mg PO BID 
6. Tacrolimus 0.5 mg PO Q12H 
7. Ascorbic Acid ___ mg PO DAILY 
8. Vitamin D 1000 UNIT PO DAILY 
9. Multivitamins W/minerals 1 TAB PO DAILY 
10. Acyclovir 200 mg PO DAILY 
11. Calcitriol 0.5 mcg PO BID 
12. ClonazePAM 0.5 mg PO BID 
13. diclofenac sodium 1 % topical DAILY 
14. DICYCLOMine 10 mg PO TID 
15. Metoprolol Succinate XL 25 mg PO DAILY 
16. Vitamin A 8000 UNIT PO DAILY 
17. Vitamin E 1000 UNIT PO DAILY 
18. Tizanidine 2 mg PO BID 
19. Acetaminophen 325 mg PO Q6H:PRN Pain - Mild 

 
Discharge Medications:
1.  Fentanyl Patch 100 mcg/h TD Q72H 
RX *fentanyl 100 mcg/hour 1 patch transdermally q72h Disp #*10 
Patch Refills:*0 
2.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
3.  Acyclovir 400 mg PO Q12H  
4.  Calcitriol 0.25 mcg PO BID  
5.  ClonazePAM 0.5 mg PO BID:PRN anxiety  
6.  Levothyroxine Sodium 88 mcg PO DAILY  
7.  Tizanidine 4 mg PO TID  
8.  Ascorbic Acid ___ mg PO DAILY  
9.  Aspirin 81 mg PO DAILY  
10.  diclofenac sodium 1 % topical DAILY  
11.  DICYCLOMine 10 mg PO TID  
12.  Metoprolol Succinate XL 25 mg PO DAILY  
13.  Multivitamins W/minerals 1 TAB PO DAILY  
14.  Omeprazole 40 mg PO BID  
15.  PredniSONE 5 mg PO DAILY  
16.  Rosuvastatin Calcium 40 mg PO QD  
17.  Tacrolimus 0.5 mg PO Q12H  
18.  Vitamin A 8000 UNIT PO DAILY  
19.  Vitamin D 1000 UNIT PO DAILY  
20.  Vitamin E 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses
===================
Acute Kidney Injury due to hypovolemia

Secondary Diagnoses
======================
History of cadaveric renal transplant
End stage renal disease 
anemia of chronic disease  
Coronary artery disease 
paroxysmal atrial fibrillation  
hypertension  
hyperlipidemia  
diastolic heart failure
h/o DVT  
hypothyroidism
osteopenia secondary to chronic steroid use  
gastroesophageal reflux disease
osteonecrosis of bilateral feet complicated by osteomyelitis  
osteonecrosis of Left hip 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
 
Discharge Instructions:
Dear ___,

It was a pleasure taking care of you during your stay at ___.

Why was I here?
-Your urine was dark

What was done while I was here?
-You were given antibiotics
-You were given fluids

What should I do when I leave?
-You should go to see Ms. ___, the palliative care nurse 
___ should go to see Dr. ___

___ well!

Your ___ Care Team
 
Followup Instructions:
___